US07358250B2
Step C: [7-(2,4-Dimethoxybenzyl)-5,6-diphenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-(2-morpholin-4-ylethyl)-amine
To a solution of 7-(2,4-dimethoxybenzyl)-5,6-diphenyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (43.7 mg, 0.1 mmol) and sodium hydroxide powder (20 mg, 0.50 mmol) in DMF (1 mL) was added N-(2-chloroethyl)morpholine (30 mg, 0.2 mmol). The mixture was stirred for 5 minutes at 150° C. under microwave irradiation (using powerMAX™). The reaction mixture was then cooled and diluted with EtOAc (25 mL). The mixture was extracted twice with water (10 mL) and then brine. The organic layer was dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by column chromatography on silica gel to give the title compound.

reactant | 7-(2,4-dimethoxybenzyl)-5,6-diphenyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 0.1 mmol, 43.7 mg | COC1=C(CN2C(=C(C3=C2N=CN=C3N)C3=CC=CC=C3)C3=CC=CC=C3)C=CC(=C1)OC | C27H24N4O2
reactant | sodium hydroxide | 0.50 mmol, 20 mg | [OH-].[Na+]
reactant | N-(2-chloroethyl)morpholine | 0.2 mmol, 30 mg | ClCCN1CCOCC1 | C6H12ClNO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | [7-(2,4-Dimethoxybenzyl)-5,6-diphenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-(2-morpholin-4-ylethyl)-amine | COC1=C(CN2C(=C(C3=C2N=CN=C3NCCN3CCOCC3)C3=CC=CC=C3)C3=CC=CC=C3)C=CC(=C1)OC | C33H35N5O3
